US07678801B2
N-{3-[2-(4-amino-1-piperidinyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide
The title compound was prepared from N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide and 4-piperidinamine according to General Procedure for Sulfoxide/Sulfone Displacement, described above. The concentrated reaction mixture was purified via reversed-phase HPLC to give the desired compound as a light tan powder (0.041 g, 32%). HPLC indicated the material to be >95% pure (m.p. 183.8-187.9): LC-MS m/z 573 (M+H)+, 1.79 min (ret time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C2=CSC=C2)S(=O)(=O)C)=O | C26H18F2N4O4S2
reactant | 4-piperidinamine | N1CCC(CC1)N | C5H12N2
product | N-{3-[2-(4-amino-1-piperidinyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-3-thiophenecarboxamide | 0.041 g, 32% | NC1CCN(CC1)C=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C=CC2C)NC(=O)C2=CSC=C2 | C30H26F2N6O2S
